US06667345B2
4. 1-Acetoxy-5-chloro-2-methylsulfonylindane
0.247 g (1 mmol) of 5-chloro-2-methylsulfonylindan-1-ol is dissolved in 5 ml of dichloromethane. 1 ml of pyridine and 1 ml of acetic anhydride are added to the solution, and the reaction mixture is then stirred at room temperature for 2 days. The reaction solution is concentrated completely and the residue is taken up in dichloromethane and extracted with dilute citric acid. The organic phase is separated off, concentrated and purified chromatographically (silica gel; dichloromethane/methanol 20/1). This gives 1-acetoxy-5-chloro-2-methylsulfonylindane of melting point 136° C.

reactant | 5-chloro-2-methylsulfonylindan-1-ol | 1 mmol, 0.247 g | ClC=1C=C2CC(C(C2=CC1)O)S(=O)(=O)C | C10H11ClO3S
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-Acetoxy-5-chloro-2-methylsulfonylindane | C(C)(=O)OC1C(CC2=CC(=CC=C12)Cl)S(=O)(=O)C | C12H13ClO4S
